US08022063B2
{4-Bromo-2-[2-(4-methoxyphenyl)oxazol-4-yl]phenoxy}acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and 4-methoxybenzamide according to GP5 and GP3: LC/MS (an10p8) Rt 2.61 min, m/z 404 [M+H]+.

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | 4-methoxybenzamide | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
product | {4-Bromo-2-[2-(4-methoxyphenyl)oxazol-4-yl]phenoxy}acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(OC1)C1=CC=C(C=C1)OC | C18H14BrNO5
